US07923456B2
Method B, step 2: 2-Fluoro-4-trimethylsilanyl-phenylamine
To a solution of 4-bromo-2-fluoro-phenylamine (114 g, 0.6 mol) in anhydrous THF (750 mL) at −78° C. was added a 1.6M solution of nBuLi in hexanes (1500 mL, 2.4 mol) dropwise keeping the internal temperature below −60° C., under an inert atmosphere. The reaction mixture was treated dropwise with TMSCl (256 mL, 2.0 mol), keeping the internal temperature below −60° C. The reaction mixture was allowed to warm to 0° C. over a 1 hour period and poured into ice-cold 2M HCl (ca. 1 L). The mixture was vigorously stirred for 10 min, then the organic layer was separated, and washed with water and a saturated solution of potassium carbonate, dried (Na2SO4), filtered and concentrated to give the title compound as a light brown oil (89 g, 81%).

reactant | 4-bromo-2-fluoro-phenylamine | 0.6 mol, 114 g | BrC1=CC(=C(C=C1)N)F | C6H5BrFN
reactant | nBuLi | [Li]CCCC
reactant | TMSCl | 2.0 mol, 256 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 750 mL | C1CCOC1 | C4H8O
product | 2-Fluoro-4-trimethylsilanyl-phenylamine | 89 g, 81% | FC1=C(C=CC(=C1)[Si](C)(C)C)N | C9H14FNSi
